Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm / Prinivil / Reglan
 
Attending: ___.
 
Chief Complaint:
nausea, vomitting, diarrhea
 
Major Surgical or Invasive Procedure:
Exploration and debridement of right foot ulcer ___

 
History of Present Illness:
___ yo M with PMH of CAD s/p CABG, DM1 with complications, 
cadaveric renal transplant ___ years ago who presents with four 
days of nausea and vomiting. He reports one week of brown watery 
diarrhea. No black or tarry stools. No abdominal pain. Then 
about 4 days ago he developed nausea and vomiting. He reports 
very little PO intake given his symptoms. Had fevers to 101.8 at 
home with chills. Felt lightheaded with standing up. Reports 
some SOB with exertion, but no CP- he states this has been on 
going for months. No orthopnea. No cough. He also states that 
his right knee is painful- this too is chronic and on going with 
out patient work up.  
.  
In the ED, his initial vitals were T 98, HR 96, BP 121/70, RR 
20, O2sat 100% RA. His oxygen saturation fell to 91% on RA and 
up to 98% with 2L NC. Blood cultures were sent. He was given 
vancomycin 1g IV, zosyn 4.5 g IV, zofram and morphine 4mg IV and 
then 2mg IV. Vitamin K was given 5mg IV x1 for INR of 10.  
.  
Currently, he feels a little bit improved. No lightheadedness. 
No abdominal pain. No CP or SOB currently. No nausea right now. 
Does complain of right knee pain. No pain in his right foot with 
the chronic ulcer/osteo. No headache or change in vision. No 
back pain. No dysuria or hematuria. +thirst +dry mouth. No 
palpitations.  
.  

 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life  
-CAD s/p CABG and MI; s/p stents  
-HTN  
-DM1 iwth reinopathy, neuropathy, ESRD, R charcot foot in ___  
-s/p cadaveric renal transplant in ___ on prednisone and 
tacrolimus  
-ORIF right arm  
-chronic foot ulcer  
-amputated right toe  
-MRSA right foot with osteomyelitis  
-C diff colitis ___  
-cryptococcal pna in ___, now on fluconazole suppressive 
therapy  
-lung nodules  
-PVD  
-GERD  
-b/l cataract surgery,  
-s/p pop artery angioplasty in ___  

 
Social History:
___
Family History:
DM type II in father and paternal ___. Mother had "heart 
disease."
 
Physical Exam:
vitals:T 98.8, BP 143/78, HR 82, O2sat 100% on 3L NC  
General: overweight male in NAD lying in bed  
HEENT: NCAT, anicteric sclera, non-injected conjunctiva, PERRL, 
EOMI, dry MM with very dry cracked lips. Smooth tongue. OP 
clear. No cervical or supraclavicular LAD.  
CV: RRR no m/r/g appreciated  
Lungs: CTAB no w/r/r appreciated  
Abdomen: +BS, several well healed scars. Non-tender. 
Non-distended  
Ext: right foot from toes to mid calf is erythematous with flaky 
skin. Amputated second toe on right foot. Ulcer on heal. Left 
foot has PVD but no erythema. No edema. Right knee has some 
arthritic changes. No effusion. No erythema. Mildly tender to 
palpation on medial surface along tibial head. Left knee 
non-tender.  
-Dorsom of right hand is erythematous but not edematous. Itchy 
per patient. No obvious skin breaks or lesions on hand. Left 
hand is without erythema or edema.  

 
Pertinent Results:
___ 07:00AM BLOOD WBC-3.9* RBC-3.78* Hgb-8.8* Hct-28.8* 
MCV-76* MCH-23.2* MCHC-30.5* RDW-17.7* Plt ___
___ 12:30PM BLOOD Neuts-83.3* Lymphs-10.3* Monos-5.2 
Eos-1.0 Baso-0.2
___ 07:00AM BLOOD ___
___ 06:20AM BLOOD ESR-62*
___ 07:00AM BLOOD Glucose-151* UreaN-21* Creat-2.6* Na-144 
K-3.8 Cl-112* HCO3-24 AnGap-12
___ 05:30AM BLOOD CK(CPK)-20*
___ 07:00AM BLOOD Calcium-8.3* Phos-3.0 Mg-1.9
___ 04:15PM BLOOD %HbA1c-9.0*
___ 12:30PM BLOOD CRP-265.4*
___ 07:10PM BLOOD Vanco-17.1
___ 06:30AM BLOOD tacroFK-9.8
.
___ Tib Fib XRAY: 1. New lucency and destruction of the 
bone at the tarsal-metatarsal joints of the first through fourth 
MTT joints is worrisome for osteomyelitis. Diffuse soft tissue 
swelling of the right foot with severe arthropathy of the mid 
foot also noted. 
2. Patient is status post amputation of the second toe. 
.
___ Foot XRAY: 1. New lucency and destruction of the bone 
at the tarsal-metatarsal joints of the first through fourth MTT 
joints is worrisome for osteomyelitis. Diffuse soft tissue 
swelling of the right foot with severe arthropathy of the mid 
foot also noted. 
2. Patient is status post amputation of the second toe. 
.
___ CT abd and pelvis w/o contrast: 1. No acute 
intra-abdominal process identified. 
2. Left lower quadrant transplanted kidney, without evidence of 
hydronephrosis or perinephric fluid. Assessment of the 
parenchyma is limited without IV contrast. 
3. Continued stranding within the mesentery in the mid abdomen, 
with a "misty mesentery appearance," but similar in appearance 
to ___. 
.
___ TTE: The left atrium is mildly dilated. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets appear structurally normal 
with good leaflet excursion. No aortic regurgitation. The mitral 
valve leaflets are structurally normal. There is no mitral valve 
prolapse. Trivial mitral regurgitation. No mass or vegetation is 
seen on the mitral valve. The left ventricular inflow pattern 
suggests impaired relaxation. No masses or vegetations are seen 
on the tricuspid valve, but cannot be fully excluded due to 
suboptimal image quality. The pulmonary artery systolic pressure 
could not be determined. 
IMPRESSION: Suboptimal image quality. No evidence of 
endocarditis, but suboptimal quality to fully exclude. If 
clinically indicated, a TEE may better assess for vegetations. 
Preserved biventricular global systolic function. Impaired 
relaxation pattern. 
.
___ Renal US: No significant abnormality and no change 
since one year prior.
.
___ MR ankle without contrast: 1. Fluid collection at the 
dorsal aspect of the medial midfoot, contiguous with fluid 
within the tarsometatarsal joints. 
2. Extensive edema in the cuneiforms, cuboid, and proximal 
metatarsals, with loss of cortical definition and erosions, 
consistent with osteomyelitis. Extensive subcutaneous edema, 
consistent with cellulitis. 
3. Lisfranc fracture-dislocation, with widening of the 
interspace between the first and second metatarsals. 
4. Pes planus deformity and fragmentation of the navicular, 
consistent with
Charcot arthropathy. 
5. Peroneus longus and brevis tendon tears inferior to the 
lateral malleolus. 
6. Anterior talofibular ligament tear, likely chronic. 
7. Disruption of the lateral band of the plantar fascia. 
Abnormal thickening of the medial band of the plantar fascia. 
.
___ Ext Arterogram: Findings consistent with significant 
right femoral and tibial as well as left tibial arterial 
disease. The study is difficult to interpret, apparently the 
patient has very calcific atherosclerotic plaque formation which 
makes some of the waveforms as well as the segmental limb 
pressures inaccurate. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with PMH of kidney transplant ___ years 
ago, DM1, CAD s/p CABG and MI, chronic right foot ulceration who 
presents with nausea, vomiting and diarrhea.  
.  
# n/v/diarrhea: DDX for the n/v/diarrhea include a viral 
gastroenteritis which led to dehydration and acute on chronic 
renal failure, UTI or other infection- likely in foot and/or 
right hand. The pt's nausea on the floor was well managed with 
IV antiemetics.  He had no more diarrhea or vomitting once he 
got to the floor. He received 2L IVF in the ED and 1 more L on 
arrival to the floor. On discharge, he is tolerating a regular 
diet well with minimal nausea.  
.  
# cellulitis/chronic osteomyelitis: Followed by ___ clinic as 
outpatient and podiatry. Unclear if erythema is worse currently. 
Appears to be half way up the right calf and may be worse per 
patient. Erythema on dorsum of right hand is currently mild and 
hand is pruritic per patient. Xray of the foot and MRI were 
consistent with osteomyelitis. Cultures grew MRSA. Pt was taken 
to the OR by podiatry for exploration and debridement on ___. 
He was placed on vancomycin which he will continue via his PICC 
with ___ services at home for at least 6 wks with weekly labs 
and close follow up with podiatry and ID. On discharge, the 
erythema on the hand was almost completely resolved.
.  
# acute on chronic renal failure: s/p cadaveric kidney 
transplant ___ years ago. Renal failure on admission likely 
pre-renal given dehydration (Cr 2.2 on admission). Must also 
consider rejection given he is not sure he kept his medications 
down with the vomiting or infection. Not likely post-renal given 
no hydronephrosis on imaging and pt able to make urine. Pt's 
wife reports he is compliant with all his immunosuppressants at 
home. Cr rose to 3.2 but was down to 2.6 at time of discharge. 
Pt has planned f/u with renal transplant team.
.  
# DM1 with complications: Pt was continued on his home insulin 
regimen with good control of his sugars here and discharged on 
the same.  On diabetic diet. 
.  
# supratherapeutic INR: INR was 10 on admission. On life long 
coumadin given multiple DVT s/p IVC filter. Given 5mg IV vit K 
in ED. No signs of bleeding on exam. CT abdomen was negative for 
bleed.  INR normalized and pt was restarted on 1.5mg coumadin 
daily with close f/u and INR checks.  
.  
# HTN: Continued metoprolol. Held furosemide given dehydration 
and ARF. Pt will restart these as an outpt.  
.  
# chronic diastolic CHF: mild LVH on echo in ___. LVEF greater 
than 55%. On furosemide and metalozone at home. Held in house 
given acute on chronic renal failure to be restarted as an 
outpt.  
.  
# CAD: Continued aspirin, plavix, imdur, atorvastatin, 
metoprolol  
.  
# anemia: likely secondary to renal failure. Currently, just 
above baseline currently. Continued B vitamins and home dose 
procrit.  
.  
# h/o cryptococcal pneumonia: Continued fluconazole suppression 
therapy.

 
Medications on Admission:
.Prograf 1.0 BID  
.Prednisone 5 Daily  
.Bactrim SS 80/400 MWF  
.Metoprolol 50 BID  
.Lipitor 80 daily  
.Imdur 60 daily  
Florinef QOD 0.1 mg  
.ASA 81 Daily  
.Pantoprazole 40 daily  
.Oscal D 500 daily  
.Colace 100 BID prn  
.Fluconazole 200 daily  
lasix 40 BID  
Coumadin ___ mg daily per INR  
.MVI daily  
.Vit C 500mg daily  
.Plavix 75 daily  
.Oxycodone PRN  
Actonel 35 Q tues  
Metolazone ___ MWF  
.Procrit 10K units weekly  
.ICFerrex ___ daily  
.lantus 36 units Q noontime  
.Novalog SS  
.Travatan 1 drop in left eye daily  
.Tums PRN  
NTG prn  
.Senna prn  
Foot care- aquacel, adaptic, ethezyme, regranex el, panafil, 
silver sulfadizine, allevyn, betadine, fluocinolone, acquacel  
.  

 
Discharge Medications:
1. Outpatient Lab Work
Please get weekly BUN, Cr, ESR, CRP, and CBC with diff taken and 
faxed to Infectious Disease attn Dr. ___ at ___. 
Office phone is ___. 
2. Vancomycin 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q 24H (Every 24 Hours): Patient needs this 
medication for at least 6 wks.  Stop date to be determined by 
infectious disease- Dr. ___.
Disp:*30 Recon Soln(s)* Refills:*1*
3. Picc line care
PICC line care per NEHT protocol- saline and heparin flushes.
4. Outpatient Lab Work
Please resume your previous INR measurements per your PCP.
5. Atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
9. Warfarin 1 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
10. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).
Disp:*90 Tablet(s)* Refills:*2*
11. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
12. Epoetin Alfa 4,000 unit/mL Solution Sig: One (1)  Injection 
QMOWEFR (___).  
13. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
15. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
16. Polysaccharide Iron Complex ___ mg Capsule Sig: One (1) 
Capsule PO DAILY (Daily).  
17. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
18. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
19. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
20. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
21. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
22. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
23. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed.  
24. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
25. Insulin Glargine 100 unit/mL Solution Sig: ___ (36) 
units Subcutaneous at bedtime.  
26. Insulin Lispro 100 unit/mL Solution Sig: sliding scale 
sliding scale Subcutaneous four times a day.  
27. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain for 10 days.
Disp:*40 Tablet(s)* Refills:*0*
28. Outpatient Lab Work
Please draw Vancomycin level on ___ morning. This should a 
trough, drawn before the Vancomycin is given. Please fax results 
to Dr. ___ at ___.
29. Wound Care
Daily dressing changes: apply betadine to incisions on ankle, 
the dress with a 2x2 and a 4x4 over it. Place ABD wrap over 
this, secured with curlex. For macerations on dorsum of foot and 
shin, apply adaptic, place ABD wrap over this. Then wrap from 
foot to shin in an Ace bandage.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
MRSA bacteremia
Osteomyelitis
.
Secondary diagnoses:
ESRD s/p kidney transplant
PVD
s/p multiple DVTs on coumadin

 
Discharge Condition:
Good. Creatinine stable.

 
Discharge Instructions:
You were admitted with an infection in your blood that we 
believe came from an infection in your foot and ankle. You will 
need to remain on vancomycin for 6 weeks. During this time, 
please also take flagyl as prophylaxis for redeveloping c 
difficile colitis.
.
We would like you to not take your diuretics (lasix and 
metolazone) for now. On ___, if you are eating and drinking, 
please resume your lasix only. Please wait until you see Dr. 
___ to resume the metolazone. 
.
Please be sure to attend all of your follow up appointments as 
listed below.
.
If you develop fevers, chills or pus draining from your ankle, 
please return to the hospital.
 
Followup Instructions:
___